Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, nausea, chest discomfort, pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with history of hypertension who presents 
with a complaint of presyncope. Patient states she was in the 
middle of an altercation with her upstairs neighbor when she 
felt very flushed had a sensation of chest pain and shortness of 
breath and felt like she was going to pass out. Her daughter 
called EMS and on arrival patient was nauseous and vomiting. She 
is never had a similar episode in the past. She states she feels 
better since the initial occurrence. She has a history of chest 
pain that has been evaluated by her physician.  
 
 ===========================  
 In the ED initial vitals were: 98.5 122/82 70 18 98%RA  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 =====================  
 1. CARDIAC RISK FACTORS  
 - Hypertension  
 2. CARDIAC HISTORY  
 - CABG: none  
 - PCI: none  
 - PACING/ICD: none  
 3. OTHER PAST MEDICAL HISTORY  
 fatty liver  
 colonic polyps  
 carpal tunnel  
 cervicitis  
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death
 
Physical Exam:
VITALS: 98.1 135/86 82 18 97% RA  
GENERAL: Well-developed, well-nourished. NAD. Crying 
intermittently. 
NECK: Supple with non-elevated JVP  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.
LUNGS: Resp were unlabored, no accessory muscle use. CTAB. 
ABDOMEN: Soft, NTND. No HSM or tenderness.  

 
Pertinent Results:
___ 01:50AM BLOOD WBC-6.8 RBC-4.24 Hgb-13.2 Hct-39.6 MCV-93 
MCH-31.1 MCHC-33.3 RDW-12.8 RDWSD-43.5 Plt ___
___ 01:50AM BLOOD Glucose-119* UreaN-19 Creat-0.7 Na-141 
K-4.6 Cl-105 HCO3-21* AnGap-15
___ 01:50AM BLOOD Glucose-119* UreaN-19 Creat-0.7 Na-141 
K-4.6 Cl-105 HCO3-21* AnGap-15
___ 10:36AM BLOOD CK-MB-5 cTropnT-0.02*
___ 04:48AM BLOOD cTropnT-0.05*
___ 01:50AM BLOOD CK-MB-6 cTropnT-0.02*
 
Brief Hospital Course:
Information for Outpatient Providers: SUMMARY STATEMENT
==================
___ year old female with history of HTN who presents with 
atypical chest pain, no ischemic changes on EKG with mildly 
elevated troponins who had a negative stress test. 

ACTIVE ISSUES
==================
# Chest pain
# Presyncope 
Story convincing for acute stress response with pre-syncope, 
dyspnea, nausea and atypical chest pain. Troponins were mildly 
elevated: 0.02>0.05>0.02. Given concern for stress 
cardiomyopathy, bedside echocardiogram was performed that showed 
no evidence of Takotsubo's. ___ formal echo showed mild 
symmetric left ventricular hypertrophy with preserved global and 
regional biventricular systolic function with the suggestion of 
mild diastolic dysfunction. ___ exercise stress showed 
sufficient METs and no angina symptoms/ischemic changes on EKG. 

CHRONIC ISSUES
==================
#Hypertension
SBP in the 130s with high of 139. Initially held HCTZ in setting 
of potential procedure but instructed patient to re-start. 

TRANSITIONAL ISSUES
==================
[] Will follow-up with PCP upon discharge
[] please follow-up on atypical chest pain, nausea and 
pre-syncope symptoms 
[] please check BP and consider adding another anti-hypertensive 
if high. She has evidence of LVH on echo.

MEDICATION CHANGES
===================
None

#Code: Full code
#HCP: ___ (___), boyfriend 
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO BID 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Acetaminophen Dose is Unknown  PO Q6H:PRN Pain - Mild 
4. Hydrocortisone (Rectal) 2.5% Cream 1 Appl PR TID 
5. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
6. Estrogens Conjugated 1 gm VG TWICE WEEKLY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
3.  Estrogens Conjugated 1 gm VG TWICE WEEKLY  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Hydrocortisone (Rectal) 2.5% Cream 1 Appl PR TID  
6.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
non-cardiac chest pain

Secondary diagnosis:
hypertension
anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Ms. ___,
  
 It was a pleasure taking care of you at the ___ 
___!  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because had chest pain, shortness of 
breath, nausea and lightheadedness. 

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 - We performed a scan of your heart that showed you have a 
normal heart. 
 - We performed a stress test that showed you do not have heart 
disease. 

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  

 
Followup Instructions:
___